US07902248B2
Solid potassium carbonate (8.64 g, 62.5 mmol) was added to a solution of N-hydroxyphthalimide (4.08 g, 25.0 mmol) in dimethyl sulfoxide (37 mL), and the mixture was stirred at 25° C. for 5 min. To the mixture, isopropyl bromide (3.41 mL, 37.5 mmol) was added, and the mixture stirred at 80° C. for 3 h. After ice-cooling, the mixture was poured into cold water and the resulting precipitate was collected by filtration in vacuo, washed with water (25 mL) and hexanes (15 mL) and dried in vacuo to afford 2-isopropyloxy-isoindole-1,3-dione (4.44 g, 86.6%) as a white solid which was used in the next step without further purification.

reactant | potassium carbonate | 62.5 mmol, 8.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-hydroxyphthalimide | 25.0 mmol, 4.08 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | isopropyl bromide | 37.5 mmol, 3.41 mL | C(C)(C)Br | C3H7Br
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 37 mL | CS(=O)C | C2H6OS
product | 2-isopropyloxy-isoindole-1,3-dione | 4.44 g, 86.6% | C(C)(C)ON1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
